US08859814B2
3-{3-[(1H-indol-4-ylsulfonyl)amino]-4-(4-methylpiperidin-1-yl)-4-oxobutyl}benzamide
Example 85 is prepared from [3-(3-carbamoyl-phenyl)-1-(4-methyl-piperidine-1-carbonyl)-propyl]-carbamic acid tert-butyl ester and lithum 1-(tert-butoxycarbonyl)-1H-indole-4-sulfinic acid in the same manner as Example 71. ESI MS Calc. 482.2; Found. 483.7 (M+H)+.

reactant | [3-(3-carbamoyl-phenyl)-1-(4-methyl-piperidine-1-carbonyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CCC1=CC(=CC=C1)C(N)=O)C(=O)N1CCC(CC1)C)=O | C22H33N3O4
reactant | lithum 1-(tert-butoxycarbonyl)-1H-indole-4-sulfinic acid | C(C)(C)(C)OC(=O)N1C=CC=2C(=CC=CC12)S(=O)O.[Li]
product | 3-{3-[(1H-indol-4-ylsulfonyl)amino]-4-(4-methylpiperidin-1-yl)-4-oxobutyl}benzamide | N1C=CC2=C(C=CC=C12)S(=O)(=O)NC(CCC=1C=C(C(=O)N)C=CC1)C(=O)N1CCC(CC1)C | C25H30N4O4S
